US09334278B2
To a stirred solution of 5-bromo-6-chloro-3-trimethylsilanylethynyl-pyrazin-2-ylamine (2.0 g, 6.58 mmol) in THF (28 mL) was added a 1 M solution of KOtBu in THF (7.24 mL, 7.24 mmol) slowly at 0° C. under a nitrogen atmosphere. The reaction mixture was stirred at 0° C. for 10 min and then warmed to room temperature. After 2 h, the mixture was concentrated in vacuo and the residue obtained was suspended in water (7.5 mL) and saturated aqueous NaHCO3 (7.5 mL) and stirred overnight at room temperature The solid was filtered, washed with water and hexanes then dried in an oven at 80° C. to give 2-bromo-3-chloro-5H-pyrrolo[2,3-b]pyrazine (1.64 g) as brown solid. LC-MS: 232 (M−H). This was used directly without further purification.

reactant | 5-bromo-6-chloro-3-trimethylsilanylethynyl-pyrazin-2-ylamine | 6.58 mmol, 2.0 g | BrC=1N=C(C(=NC1Cl)N)C#C[Si](C)(C)C | C9H11BrClN3Si
reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | NaHCO3 | 7.5 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 28 mL | C1CCOC1 | C4H8O
solvent | water | 7.5 mL | O | H2O
solvent | THF | 7.24 mmol, 7.24 mL | C1CCOC1 | C4H8O
product | 2-bromo-3-chloro-5H-pyrrolo[2,3-b]pyrazine | 1.64 g | BrC=1N=C2C(=NC1Cl)NC=C2 | C6H3BrClN3
